US07348340B2
B5. 6-Bromo-4-azido-2-(3-fluorophenyl)-quinoline
Into a 250 mL three-neck round-bottom flask equipped with a condenser, magnetic stirrer, silicone oil heating bath, nitrogen inlet and gas outlet was placed 3.2 g (9.50 mmoles) of 6-bromo-4-chloro-2-(3-fluorophenyl)-quinoline. To this was added 75 mL of N-methyl pyrrolidinone then 6.0 g (95 mmoles, 10 equiv.) of sodium azide. The stirring mixture was then warmed to 60° C. for 18 hr. At the end of this time the reaction was cooled, then poured into a 1 L separatory funnel containing 500 mL water and 250 mL of ethyl acetate. The pH was adjusted to 9.0 the layers were separated. The aqueous layer was then extracted twice with 100 mL of ethyl acetate. The organic layers were combined, dried over Na2SO4, filtered and concentrated to give a product, which was carried to the next step without further purification.

reactant | 6-bromo-4-chloro-2-(3-fluorophenyl)-quinoline | 9.50 mmoles, 3.2 g | BrC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)Cl | C15H8BrClFN
reactant | N-methyl pyrrolidinone | 75 mL | CN1CCCC1=O | C5H9NO
reactant | sodium azide | 95 mmoles, 6.0 g, 10 equiv. | [N-]=[N+]=[N-].[Na+]
reactant | water | 500 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-4-azido-2-(3-fluorophenyl)-quinoline | BrC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)N=[N+]=[N-] | C15H8BrFN4
